### PR TITLE
feat(Protocols): Key exchange protocols and Diffie-Hellman

### PR DESCRIPTION
**Pull request by ChristianoBraga**
## Summary

This PR formalises the **Diffie–Hellman protocol** in `Cslib/Crypto/Protocols/DiffieHellman/Basic.lean`, rebuilt from the ground up after the first review.

- `IsHonestGenerator F G` — typeclass: there is a fixed `generator : G` for which `(· • generator) : F → G` is a bijection (non-degeneracy of the action).
- `dh a B := a • B` — the DH operation, gated on **two orthogonal** hypotheses:
  - `[IsHonestGenerator F G]` (bijection), and
  - `[Fact (Nat.Prime (Fintype.card F))]` (prime cardinality of `F`, hence of `G` via the bijection).
- `shared_eq_mul`: `dh b (dh a B) = (a * b) • B`. `agreement`: `dh b (dh a B) = dh a (dh b B)`.

The two gates are forced into `dh`'s signature via `include hg hp`; degenerate and composite-order modules are excluded at the type level. The previous `KeyExchangeProtocol` typeclass is dropped.

## Design notes

**KEP dropped.** No theorems above `agreement` to reuse; the previous review also flagged it as ergonomically wrong over free `G` and `ZMod q`.

**`Module F G` foundation.** Mathlib's additive idiom (scalars in `F`, points in `G`, `dh a B := a • B`) replaces the old `IsCyclic + Fintype.card = q + orderOf g = q` triple; agreement reduces to `mul_smul` + `mul_comm`; cyclicity follows from bijection + prime order.

**Two gates, not one.** Bijection and prime cardinality are independent properties of `(F, G)`; both are needed for DH to be cryptographically meaningful, so both gate `dh` separately.

## Resolution of review comments

| Comment | Status |
|---|---|
| `Diffie-Hellman.lean` filename does not build | ✓ The original error was obscured by an inconsistency between `lean` and `lake` on ill-formed module names (interpreting the file with `lean` worked while `lake build` failed), reported upstream as [lean4#13819](https://github.com/leanprover/lean4/issues/13819). The file is now named `DiffieHellman/Basic.lean`. |
| Docstring described a prime-modulus setup but the instance was generic | ✓ Docstring now matches what is formalised: `Module F G` with the two gates. |
| Encoded neither cyclicity, generator, primality, nor subgroup membership | ✓ `IsHonestGenerator F G` + `Fact (Nat.Prime (Fintype.card F))` are both forced onto `dh`. Cyclicity follows from bijection + prime order. |
| "Public values should live in the subgroup generated by `g`" | ✓ In this file, `G` *is* the subgroup. By construction, every value of type `G` is in it — there's no "outside" to worry about. Any curve-specific setup needed to make this true (for curves like Curve25519) is done once, where `G` is defined, not here. |
| `Fact q.Prime` is dead code | ✓ The dead `Fact q.Prime` is gone; primality is now load-bearing on `Fintype.card F`. |
| Citation missing from `references.bib` | ✓ Orphan `BonehShoup` removed; `VCVio26` added (Tuma–Dao–Waters–Hicks–Hopper, Cryptology ePrint 2026/899). |
| DH-as-`instance` doesn't synthesise cleanly | ✓ KEP removed; `dh` is a plain `abbrev` with explicit typeclass arguments. |
| Declarations should live in a namespace | ✓ Under `namespace Cslib.Crypto.Protocols.DiffieHellman`. |
| Reviewer (May 11): "shouldn't have `orderOf g = q` — derive from `Fintype + IsCyclic`" | ✓ `Fintype G`, `IsCyclic G`, and `orderOf g = q` are all gone; the equivalent semantic content lives in `IsHonestGenerator` (bijection) + `Fact (Nat.Prime …)` (prime order). |

## Alignment with VCV-io

Verified-zkEVM's VCV-io uses the same Mathlib `Module F G` idiom and lifts it to the hardness layer (DLog/CDH/DDH experiments and reductions): Tuma, Dao, Waters, Hicks & Hopper, [*VCVio: Verified Cryptography in Lean via Oracle Effects and Handlers*, Cryptology ePrint 2026/899](https://eprint.iacr.org/2026/899).

## Files

- `Cslib/Crypto/Protocols/DiffieHellman/Basic.lean` — the protocol.
- `Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/{Basic,DiffieHellman}.lean` — deleted.
- `Cslib.lean` — aggregator updated.
- `references.bib` — `BonehShoup` removed; `VCVio26` added.

## Test plan

- [x] `lake build` clean (no errors, no warnings, no `set_option linter.* false`).
- [ ] CI succeeds.

## AI disclosure

Claude Code (Anthropic) was used as a pair-programming assistant. The substantive design decisions were driven by the author: dropping KEP after concluding it carried no inheritable theory, insisting on type-level enforcement of DH's cryptographic prerequisites rather than docstring caveats, and separating the bijection (`IsHonestGenerator`) from primality (`Fact (Nat.Prime …)`) as orthogonal gates after the assistant had initially bundled them. The `Module F G` foundation comes from prior formalisation work by the author, and the VCV-io reference was also supplied by the author. The assistant's role was executional: integrating those inputs into the file, drafting code and documentation, articulating design options for the author's choice, and writing prose. All Lean code, proofs, and the final design were reviewed and accepted by the author.

### CODE REVIEW

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
+/-
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: This file doesn't build because Diffie-Hellman.lean isn't a valid module name.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+
+Suppose p is a large prime and that q is a large prime dividing p − 1 (think of p as being very
+large random prime, say 2048 bits long, and think of q as being about 256 bits long). We will be
+doing arithmetic mod p, that is, working in ℤₚ. Recall that ℤₚ* is the set of nonzero elements
+of ℤₚ. An essential fact is that since q divides p − 1, ℤₚ* has an element g of order q.
+This means that gᑫ = 1 and that all of the powers gᵃ, for a = 0, …, q − 1, are distinct.
+Let G := {gᵃ : a = 0, …, q − 1}, so that G is a subset of ℤₚ* of cardinality q. It is not hard
+to see that G is closed under multiplication and inversion; that is, for all u, v ∈ G,
+we have u·v ∈ G and u⁻¹ ∈ G. Indeed, gᵃ · gᵇ = gᵃ⁺ᵇ = gᶜ with c := (a + b) mod q, and (gᵃ)⁻¹ = gᵈ
+with d := (−a) mod q. In the language of algebra, G is called a subgroup of the group ℤₚ*.
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: The module documentation describes a specific cryptographic setup with primes p, q, and a subgroup of ℤₚ*, but this instance is for any CommGroup G, any g : G, and any q : ℕ. The documentation should say the formalization only models the agreement equation, not the full DH setup/security assumptions. It should also be as general as the definition.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+-/
+
+instance DiffieHellmanKE {G : Type u} [CommGroup G] (g : G) (q : ℕ) :
+    KeyExchangeProtocol (ZMod q) G G where
+  pub := fun α => g ^ α.val
+  sharedSecret := fun u α => u ^ α.val
+  agreement := by
+    intro α β
+    show (g ^ β.val) ^ α.val = (g ^ α.val) ^ β.val
+    rw [← pow_mul, ← pow_mul, mul_comm]
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: This proves the algebraic agreement equation for exponentiation in a commutative group, but it is
more general and weaker than the Diffie-Hellman setup described in the module documentation. The
instance does not encode that G is a cyclic subgroup of order q, that g has order q, that q is
prime, or that public values live in the subgroup generated by g. If this is intended as a
formalization of Diffie-Hellman, those parameters and invariants should be represented explicitly.
Otherwise, the documentation should describe this as the exponentiation-based key-agreement
skeleton rather than the Diffie-Hellman protocol.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+4. Upon receiving u from Alice, Bob computes w ← uᵝ.
+
+The secret shared by Alice and Bob is:
+
+  w = vᵅ = gᵅᵝ = uᵝ
+
+Reference:
+
+* [D. Boneh and V. Shoup,V., *A Graduate Course in Applied Cryptography*, One-time pad][BonehShoup],
+  Section 10.4.
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: This is incorrect, referencing the one-time pad not DH.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,48 @@
...
+4. Bob computes the shared secret as sharedSecret(pub(α), β).
+
+The fundamental correctness property (*agreement*) states that both parties compute the same
+shared secret:
+
+  sharedSecret(pub(β), α) = sharedSecret(pub(α), β)
+
+Reference:
+
+* [D. Boneh and V. Shoup,V., *A Graduate Course in Applied Cryptography*][BonehShoup],
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Basic.lean]: This citation is missing from the references.bib.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean [hunk 6]
```diff
@@ -0,0 +1,99 @@
...
+-/
+
+instance DiffieHellmanKE {G : Type u} [CommGroup G] (g : G) (q : ℕ) :
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: This should not be an instance. The instance is not actually synthesizable after I renamed it on my end. Just make it a struct and a def.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,48 @@
...
+  Section 10.4.
+-/
+
+universe u v w
+
+class KeyExchangeProtocol
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Basic.lean]: We should define this in a namespace, not in the root. This is true across the whole file.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean (hunk 6 above)
Comment (SamuelSchlesinger) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: This should also be in a namespace.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean [hunk 8]
```diff
@@ -0,0 +1,99 @@
...
+Computing the shared secret from the other party's public value
+is the same as exponentiating the generator by the product of both private keys.
+This is the key algebraic fact underlying the protocol — it
+shows the shared secret can be characterized as g^(α·β), independent of which
+party computes it.
+-/
+omit [Fact q.Prime] in
+theorem secret_eq (α β : ZMod q) :
+    (g ^ β.val) ^ α.val = g ^ (α * β).val := by
+  rw [← pow_mul, ZMod.val_mul, mul_comm β.val α.val, pow_mod_q hG]
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: Fact q.Prime appears to be dead code.

**Review by SamuelSchlesinger — CHANGES_REQUESTED** [review]
Overall, it appears the author did not build this to ensure it worked locally, so there are several issues. I tried to give a thorough review despite this.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Hi @ChristianoBraga, thanks for your interest in contributing! Can I ask that you disclose any AI usage in the PR description? There seem to be some patterns of AI usage based on the review that was just left.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean (hunk 1 above)
Comment (ChristianoBraga) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: Since my contribution is stand alone, I only compiled the files themselves and not the entire cslib. 
I will fix it!

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean (hunk 2 above)
Comment (ChristianoBraga) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: I will rewrite the whole documentation to make it more consistent.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean (hunk 3 above)
Comment (ChristianoBraga) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: I will tight this up, thank you!

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean (hunk 4 above)
Comment (ChristianoBraga) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: I will fix it!

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Basic.lean (hunk 5 above)
Comment (ChristianoBraga) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Basic.lean]: I will fix it!

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean (hunk 6 above)
Comment (ChristianoBraga) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: Is it conceptually wrong to have DH as an instance of `KeyExchangeProtocol`?

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Basic.lean (hunk 7 above)
Comment (ChristianoBraga) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Basic.lean]: Yes!, I will fix it.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean (hunk 6 above)
Comment (SamuelSchlesinger) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: It is not conceptually wrong, but ergonomically wrong in this case because you're defining it for a free variable G and ZMod q. If you want to do it this way, defining wrappers here is probably the way, or using some singleton tag type. I would personally prefer to use it as a structure myself.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/DiffieHellman.lean [hunk 9]
```diff
@@ -0,0 +1,76 @@
...
+
+* [Boneh, Shoup, *A Graduate Course in Applied Cryptography*][BonehShoup], Section 10.4.2
+-/
+
+namespace Cslib.Systems.Distributed.Protocols.Cryptographic.KeyExchange.DH
+
+open KeyExchange
+
+class DiffieHellman {G : Type u} [Group G] [Fintype G] [IsCyclic G]
+    (g : G) (q : ℕ) (hq : Fintype.card G = q) (hg : orderOf g = q)
```
Comment (SamuelSchlesinger) [inline Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/DiffieHellman.lean]: I feel like we shouldn't have to have these proofs here or even `q` at all, as for a `Fintype G` with `IsCyclic G` we should be able to refer to the order somehow. If this doesn't exist in Mathlib, would be nice to have it here. Would eliminate a lot of noise down the line, though it would be a bit uglier here.

**Review by SamuelSchlesinger — APPROVED** [review]
This LGTM other than my one nit.

File: Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean (hunk 1 above)
Comment (ChristianoBraga) [reply Cslib/Systems/Distributed/Protocols/Cryptographic/KeyExchange/Diffie-Hellman.lean]: As a matter of fact, it seems that there is an inconsistency on how lean and lake deal with ill-formed filenames.
I have just created an issue at Lean 4 project:
[lean4#13819](https://github.com/leanprover/lean4/issues/13819)

**Comment by ChristianoBraga** [comment]
> Overall, it appears the author did not build this to ensure it worked locally, so there are several issues. I tried to give a thorough review despite this.

I fell pray of an inconsistency on how (ill-formed) filenames are handled between lean and lake. Kindly check this issue at Lean 4 project: [lean4#13819](https://github.com/leanprover/lean4/issues/13819).

File: Cslib/Crypto/Protocols/DiffieHellman/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,136 @@
...
+--   2. `Fact (Nat.Prime (Fintype.card F))` — the scalar ring's cardinality
+--      is prime, so (under the bijection) `G` is a prime-order cyclic
+--      group, avoiding Pohlig–Hellman.
+-- `dh`'s body doesn't reference either typeclass, so we force their
+-- inclusion via `include hg hp`.
+
+/-- Diffie–Hellman primitive: the scalar action `a • B`. Gated unconditionally
+on `[IsHonestGenerator F G]` and `[Fact (Nat.Prime (Fintype.card F))]` —
+this file does not formalize DH on degenerate or composite-order modules. -/
+abbrev dh (a : F) (B : G) : G := a • B
```
Comment (SamuelSchlesinger) [inline Cslib/Crypto/Protocols/DiffieHellman/Basic.lean:118]: Shouldn't `B` here be `IsHonestGenerator.generator`? Without that, `IsHonestGenerator` is just dead code.

File: Cslib/Crypto/Protocols/DiffieHellman/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,136 @@
...
+
+* [VCVio26] Tuma, Dao, Waters, Hicks, Hopper, *VCVio: Verified Cryptography in
+  Lean via Oracle Effects and Handlers*, Cryptology ePrint 2026/899
+  ([eprint.iacr.org/2026/899](https://eprint.iacr.org/2026/899)) — companion
+  paper to the [VCV-io library](https://github.com/Verified-zkEVM/VCV-io),
+  whose [DiffieHellman.lean]
+  (https://github.com/Verified-zkEVM/VCV-io/blob/main/
+                                    VCVio/CryptoFoundations/HardnessAssumptions/DiffieHellman.lean)
+  uses the same `Module F G` foundation as this file and lifts it to the
+  hardness layer (DLog/CDH/DDH experiments and reductions).
```
Comment (SamuelSchlesinger) [inline Cslib/Crypto/Protocols/DiffieHellman/Basic.lean:80]: This documentation is incredibly verbose. Also, can you cite a textbook that actually explains what Diffie-Hellman is? Feels like you explain all sorts of little technicalities and why you formalize it with a module etc. much more than you actually teach the reader what they're looking at, why it exists, and why it is formalized here. These docs need some human attention throughout the whole file, they are quite grim as it stands as a human reader.

Here is some advice: It would be nice to explain the protocol in clear terms, then hint the reader ahead to what you plan to prove about all of this, for instance proving the security under CDH or whatever. That would make this whole thing make sense and justify its existence in the `Crypto` tree. _I_ know where you're going, but we need to help other readers.

File: Cslib/Crypto/Protocols/DiffieHellman/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,136 @@
...
+*non-degeneracy* condition on the chosen generator, and is orthogonal to
+any condition on the order of `G`.
+
+Without the bijection, DLog is ill-defined or multi-valued, and the
+discrete-log game is meaningless even before we consider hardness. -/
+class IsHonestGenerator (F G : Type*) [CommRing F] [AddCommGroup G] [Module F G] where
+  /-- The chosen honest generator. -/
+  generator : G
+  /-- The scalar-to-point map at `generator` is a bijection. -/
+  bijective : Function.Bijective (fun a : F => a • generator)
```
Comment (SamuelSchlesinger) [inline Cslib/Crypto/Protocols/DiffieHellman/Basic.lean:100]: We define this, then we never use it...

Comment (SamuelSchlesinger) [reply Cslib/Crypto/Protocols/DiffieHellman/Basic.lean:100]: It would be nice to use `bijective` in a proof somewhere, or else one might wonder why it exists for now.

**Review by SamuelSchlesinger — CHANGES_REQUESTED** [review]
Still needs work. I still have the impression an AI is at the wheel here more than a human and I would hope the next attempt will meet a higher bar, else I will not be interested in reviewing this PR again.

**Comment by ChristianoBraga** [comment]
> Still needs work. I still have the impression an AI is at the wheel here more than a human and I would hope the next attempt will meet a higher bar, else I will not be interested in reviewing this PR again.

Not really, not at all. 
I spent quite some time with this formalization today. 
I wanted to define the signature with proper bindings, not to a module that could degenerate, otherwise it is not DH, it is just a signature with certain properties. 
I think you are being too harsh. 
But maybe I should just withdraw it as nobody else is going to review it anyways.
